US08080556B2
Imidazole-1-carboxylic acid (2,2-difluoro-propyl)-amide
TEA (1.3 mL, 0.8 mmol) was added to a solution of 2,2-difluoropropylamine hydrochloride (82 mg, 0.62 mmol) and 1,1′-CARBONYLDIIMIDAZOLE (114 mg, 0.7 mmol) in DMF (3 mL) (clear colorless solution). The solution was used for the synthesis of compound 5 without further isolation of compound 9.

reactant | 2,2-difluoropropylamine hydrochloride | 0.62 mmol, 82 mg | Cl.FC(CN)(C)F
reactant | 1,1′-CARBONYLDIIMIDAZOLE | 0.7 mmol, 114 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid (2,2-difluoro-propyl)-amide | FC(CNC(=O)N1C=NC=C1)(C)F | C7H9F2N3O
